US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[1-(3-methoxypropyl)-1H-indazol-6-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 0.390 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.199 g of 6-chloromethyl-1-(3-methoxypropyl)-1H-indazole are reacted. The title compound is obtained as a colourless oil. Rf=0.31 (2:1 EtOAc-heptane); Rt=6.12.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.390 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 6-chloromethyl-1-(3-methoxypropyl)-1H-indazole | 0.199 g | ClCC1=CC=C2C=NN(C2=C1)CCCOC | C12H15ClN2O
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[1-(3-methoxypropyl)-1H-indazol-6-ylmethoxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC=C3C=NN(C3=C2)CCCOC)C=CC=C1 | C39H51N3O7
